data/mechanisms/records/IMS8-EQ8.56b.json
{"mechanism_id": "IMS8-EQ8.56b", "species": [{"species_id": "ring_opened_distonic_ion", "mapped_smiles": "[CH2:2]=[O+:1][CH2:6][CH2:5][CH2:4][CH2:3]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "formaldehyde_neutral", "mapped_smiles": "[CH2:2]=[O:1]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "tetramethylene_distonic_c4h8", "mapped_smiles": "[CH2+:6][CH2:5][CH2:4][CH2:3]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}], "states": [{"state_id": "state_precursor", "species_ids": ["ring_opened_distonic_ion"]}, {"state_id": "state_products", "species_ids": ["formaldehyde_neutral", "tetramethylene_distonic_c4h8"]}], "steps": [{"step_id": "step_inductive_ch2o_loss", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 6]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_inductive_ch2o_loss", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_ch2o_loss", "support_type": "textbook_proposed", "locator": {"page": 182, "equation": "8.56", "figure": null, "panel": null, "section": null}, "confidence": 0.7, "curator_note": "Upper branch of Equation 8.56, on the reaction arrow labelled 'i' (inductive / charge-site cleavage) leaving the ring-opened distonic ion .CH2CH2CH2CH2-O+=CH2: the oxocarbenium O1-C6 bond breaks heterolytically with both electrons migrating to the charge-bearing oxygen, expelling neutral formaldehyde (printed as 'O=CH2') and leaving the hydrocarbon C4H8+. ion at m/z 56, 55%. Book draws 0 arcs for this branch (only the italic 'i' reaction arrow); the single double-barbed arrow encoded here is curator-supplied for electron balance. DRAWN-STRUCTURE DISCLOSURE: the page draws the m/z 56 ion as a four-membered ring with THREE solid bonds and a DOTTED 1,4-bond, '+' on one terminus and '.' on the other, i.e. the tetramethylene distonic radical cation +CH2CH2CH2CH2. caught on the way to the cyclobutane radical cation. A partial (dotted) bond has no SMILES representation, so the open-chain distonic form that the arrow actually produces is encoded and the incipient ring closure is disclosed here."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 86.0726, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_c4h8_m56", "species_id": "tetramethylene_distonic_c4h8", "step_id": "step_inductive_ch2o_loss", "observed_mz": 56.0621, "relative_intensity": 0.55, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
